US04535183
3-Chloro-6-hydroxy-2-methoxybenzaldehyde (1.9 g, 0.0102 M), ethyl 5-bromopentanoate (2.13 g. 0.0102 M), anhydrous potassium carbonate (1.55 g), sodium iodide (56 mg), and 95% ethanol (25 ml) were refluxed with stirring (17 hr). The cooled reaction mixture was filtered and the solid washed well with ethanol. The filtrate was evaporated to dryness and the residue partitioned between ether and water. The organic layer was separated and washed with 2 N sodium hydroxide solution, water, dried (magnesium sulphate) and evaporated to give ethyl 5-(4-chloro-2-formyl-3-methoxyphenoxy)pentanoate as an oil.

reactant | 3-Chloro-6-hydroxy-2-methoxybenzaldehyde | 0.0102 M, 1.9 g | ClC=1C(=C(C=O)C(=CC1)O)OC | C8H7ClO3
reactant | ethyl 5-bromopentanoate | 0.0102 M, 2.13 g | BrCCCCC(=O)OCC | C7H13BrO2
reactant | potassium carbonate | 1.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 56 mg | [I-].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | ethyl 5-(4-chloro-2-formyl-3-methoxyphenoxy)pentanoate | ClC1=C(C(=C(OCCCCC(=O)OCC)C=C1)C=O)OC | C15H19ClO5
